US08258144B2
5-(1-butoxyethyl)-N4-cyclopropyl-N2-(1H-indazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine
To a solution of 5-(1-butoxyethyl)-N4-cyclopropyl-N2-(1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine (20 mg, 0.036 mmol) in dioxane (2 mL), aq. 1N KOH (1.0 mL, 1.0 mmol) was added. The mixture was stirred at 65° C. for 18 h. After being concentrated in vacuo, the residue was acidified with HOAc (1 mL); it was then purified by HPLC to give the titled compound (3 mg). MS 406.2 (M+H); UV 203.8, 223.8, 243.8, 315.0 nm.

reactant | 5-(1-butoxyethyl)-N4-cyclopropyl-N2-(1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 0.036 mmol, 20 mg | C(CCC)OC(C)C1=CN(C=2N=C(N=C(C21)NC2CC2)NC2=CC=C1C=NNC1=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C29H33N7O3S
reactant | KOH | 1.0 mmol, 1N, 1.0 mL | [OH-].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-(1-butoxyethyl)-N4-cyclopropyl-N2-(1H-indazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 3 mg | C(CCC)OC(C)C1=CNC=2N=C(N=C(C21)NC2CC2)NC2=CC=C1C=NNC1=C2 | C22H27N7O
